US07087601B2
A mixture of 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole (190 mg, 0.58 mmol), 3-pyridylboronic acid (70 mg, 0.58 mmol), Pd(Ph3P)4 (70 mg, 0.06 mmol), K2CO3 (200 mg, 1.5 mmol), DME (6 mL) and H2O (3 mL) was degassed with bubbling Ar for 15 min. The mixture was heated at 80° C. for 1 h. The reaction was poured into H2O (40 mL) and extracted with CH2Cl2 (2×30 mL). The organic extracts were dried (MgSO4) and concentrated to afford a colorless solid. Purification of the solid by flash chromatography on silica gel (EtOAc:hexanes 3:1) afforded the desired 2-[3-methoxy-4-(pyridin-3-ylmethyl)phenyl]-1,3-benzoxazole as a yellow solid: 1H NMR (CDCl3, 300 MHz) δ 8.56 (br s, 1H), 8.45 (br d, 1H), 7.74–7.80 (m, 3H), 7.50–7.58 (m, 2H), 7.32–7.37 (m, 2H), 7.17–7.24 (m, 2H), 4.00 (s, 2H), 3.93 (s, 3H). MS (ESI) 317 (M+H)+.

reactant | 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole | 0.58 mmol, 190 mg | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C15H12BrNO2
reactant | 3-pyridylboronic acid | 0.58 mmol, 70 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | K2CO3 | 1.5 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DME | 6 mL | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 0.06 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 3 mL | O | H2O
product | 2-[3-methoxy-4-(pyridin-3-ylmethyl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1CC=1C=NC=CC1)C=1OC2=C(N1)C=CC=C2 | C20H16N2O2
